US07368578B2
To a solution (300 mL) of methyl 5-formyl-2-hydroxybenzoate (5.79 g) in tetrahydrofuran was added sodium hydride (60% in oil, 1.41 g) at room temperature, and the mixture was stirred for 30 min. N-Phenyltrifluoromethanesulfonimide (14.90 g) was added to the reaction mixture, and the mixture was further stirred at room temperature for 15 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give methyl 5-formyl-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate as a colorless oil (5.99 g, yield 60%) from a fraction eluted with ethyl acetate-hexane (1:9, v/v).

reactant | methyl 5-formyl-2-hydroxybenzoate | 300 mL, 5.79 g | C(=O)C=1C=CC(=C(C(=O)OC)C1)O | C9H8O4
reactant | sodium hydride | 1.41 g | [H-].[Na+]
reactant | N-Phenyltrifluoromethanesulfonimide | 14.90 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 5-formyl-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate | 5.99 g, yield 60% | C(=O)C=1C=CC(=C(C(=O)OC)C1)OS(=O)(=O)C(F)(F)F | C10H7F3O6S
